US08314091B2
F: 3-(1-(4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)-2-methylpropyl)-N-tert-butylbenzamide
A mixture of N-tert-butyl-3-(2-methyl-1-(piperazin-1-yl)propyl)benzamide (13.6 mg, 0.043 mmol), 4-amino-3-fluorobenzoic acid (10 mg, 0.065 mmol), N-ethyl-N-isopropylpropan-2-amine (11 mg, 0.086 mmol) and 1-propanephosphonic acid cyclic anhydride (55 mg, 0.086 mmol, 50% solution in ethyl acetate) in dichloromethane (2.0 mL) was stirred at room temperature for 2 hours. The mixture was treated with strong cation exchange column chromatography and purified with silica column chromatography (eluting with 33% ethyl acetate in heptane then 66% ethyl acetate in heptane) to afford the title compound (11.8 mg).

reactant | N-tert-butyl-3-(2-methyl-1-(piperazin-1-yl)propyl)benzamide | 0.043 mmol, 13.6 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)C(C(C)C)N1CCNCC1)=O | C19H31N3O
reactant | 4-amino-3-fluorobenzoic acid | 0.065 mmol, 10 mg | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.086 mmol, 11 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.086 mmol, 55 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 3-(1-(4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)-2-methylpropyl)-N-tert-butylbenzamide | 11.8 mg | NC1=C(C=C(C(=O)N2CCN(CC2)C(C(C)C)C=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C26H35FN4O2
